US08222274B2
Under ice-cooling, 0.72 ml of phosphorus oxychloride was added to 4 ml of N,N-dimethylformamide at an inner temperature of from 10 to 20° C., followed by stirring at room temperature for 15 minutes. A 5 ml portion of N,N-dimethylformamide solution of 2.00 g ethyl 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate was added to this solution under ice-cooling at an inner temperature of from 10 to 20° C., followed by stirring overnight at 60° C. Water was added at 0° C., pH was adjusted to 8 with potassium carbonate, and extraction was carried out with diethyl ether. The organic layer was washed with water and saturated brine and dried over anhydrous sodium sulfate. Then, the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:10-1:8-1:7) to obtain 1.63 g of ethyl 5-tert-butyl-4-formyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate as a light yellow solid.

reactant | phosphorus oxychloride | 0.72 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
reactant | ethyl 5-tert-butyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate | 2.00 g | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=CC=C1)C)C(=O)OCC | C20H27NO2
solvent | Water | O | H2O
product | ethyl 5-tert-butyl-4-formyl-2-methyl-1-(2-phenylethyl)-1H-pyrrole-3-carboxylate | 1.63 g | C(C)(C)(C)C1=C(C(=C(N1CCC1=CC=CC=C1)C)C(=O)OCC)C=O | C21H27NO3
